US05369159
1.5 ml (23 mmol) of methanesulfonic acid are added to a mixture of 154.8 g (0.75 mol) of 2,4-di-tert-butylphenol and 98.1 g (0.50 mol) of 3,5-dimethyl-4-hydroxymandelic acid in 500 ml of acetic acid which is stirred at 95° C. under nitrogen. After about 4 minutes, crystallisation of the product in the form of fine, white crystals begins. The reaction mixture is refluxed for another hour, then cooled to about 15° C., and the precipitated product is filtered off. The residue is washed with 250 ml of acetic acid and with 1500 ml of water. Drying gives 161.5 g (88%) of 3-(3,5-dimethyl-4-hydroxyphenyl)-5,7-di-tert-butylbenzofuran-2-one, melting point 225°-228° C. (compound (107), Table 1).

reactant | 2,4-di-tert-butylphenol | 0.75 mol, 154.8 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | 3,5-dimethyl-4-hydroxymandelic acid | 0.50 mol, 98.1 g | CC=1C=C(C(C(=O)O)O)C=C(C1O)C | C10H12O4
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
catalyst | methanesulfonic acid | 23 mmol, 1.5 ml | CS(=O)(=O)O | CH4O3S
product | 3-(3,5-dimethyl-4-hydroxyphenyl)-5,7-di-tert-butylbenzofuran-2-one | 161.5 g, 88% | CC=1C=C(C=C(C1O)C)C1C(OC2=C1C=C(C=C2C(C)(C)C)C(C)(C)C)=O | C24H30O3
